US07772227B2
To a solution of (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid chloride (380 mg, 1.23 mmol) and N,N diisopropyl ethylamine (0.2 ml, 1.3 mmol) in dichloromethane (20 ml) was added 1-N-benzyl-(cis)3,5-dimethylpiperazine (250 mg, 1.2 mmol) in dichloromethane (5 ml) and the mixture was stirred for 16 h at room temperature. The mixture was partitioned between sodium bicarbonate solution and dichloromethane. The organic layer was separated and the solvent removed in vacuo. The residue was purified by flash chromatography eluting with 0-5% (v/v) methanol in dichloromethane. Hydrochloride salt formation was achieved by the addition of hydrogen chloride (2 M solution in diethyl ether; 2 ml) to the free base in dichloromethane (1 ml). The precipitate was filtered and dried to afford (R)-3-cyclohexyl-2,3-dihydro-6-[(cis)-4-benzyl-2,6-dimethylpiperazin-1-yl-carbonyl]pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt as a light blue powder (240 mg, 0.51 mmol).

reactant | (R)-3-cyclohexyl-2,3-dihydropyrrolo[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid chloride | 1.23 mmol, 380 mg | C1(CCCCC1)[C@@H]1COC=2C=3N1C=C(C3C=CC2)C(=O)Cl | C17H18ClNO2
reactant | N,N diisopropyl ethylamine | 1.3 mmol, 0.2 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-N-benzyl-(cis)3,5-dimethylpiperazine | 1.2 mmol, 250 mg | C(C1=CC=CC=C1)N1C[C@H](N[C@H](C1)C)C | C13H20N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-3-cyclohexyl-2,3-dihydro-6-[(cis)-4-benzyl-2,6-dimethylpiperazin-1-yl-carbonyl]pyrrolo[1,2,3-de]-1,4-benzoxazine hydrochloride salt | 0.51 mmol, 240 mg | Cl.C1(CCCCC1)[C@@H]1COC=2C=3N1C=C(C3C=CC2)C(=O)N2[C@H](CN(C[C@H]2C)CC2=CC=CC=C2)C | InChI=1S/C30H37N3O2.ClH/c1-21-16-31(18-23-10-5-3-6-11-23)17-22(2)33(21)30(34)26-19-32-27(24-12-7-4-8-13-24)20-35-28-15-9-14-25(26)29(28)32;/h3,5-6,9-11,14-15,19,21-22,24,27H,4,7-8,12-13,16-18,20H2,1-2H3;1H/t21-,22+,27-;/m0./s1
